US07056916B2
(c) 6-benzyloxy-8-{2-[2-(4-ethoxyphenyl)-1,1-dimethylethylamino]-1-hydroxyethyl}4H-benzo[1,4]oxazin-3-one
2.14 g (6.0 mmol) of 6-benzyloxy-8-(2-ethoxy-2-hydroxyacetyl)-4H-benzo[1,4]oxazin-3-one and 1.0 g (5.2 mmol) of 2-(4-ethoxyphenyl)-1,1-dimethylethylamine are stirred in 40 mL ethanol for one hour at 50° C.–80° C. After cooling to ambient temperature, 0.23 g (6.0 mmol) of sodium borohydride are added and the mixture is stirred for a further hour. The reaction mixture is combined with 5 mL acetone, stirred for 30 minutes, acidified with glacial acetic acid, and evaporated down. The residue is combined with water and ethyl acetate and made alkaline. The organic phase is separated off, washed with water, dried with sodium sulfate, and freed from solvent in vacuo. The residue is dissolved again in ethyl acetate and water, combined with concentrated hydrochloric acid, and diluted with diethyl ether. The solid precipitated is suction filtered and washed with diethyl ether. White solid. Yield: 2.0 g (61%, hydrochloride); melting point: 214° C.–216° C.

reactant | 6-benzyloxy-8-(2-ethoxy-2-hydroxyacetyl)-4H-benzo[1,4]oxazin-3-one | 6.0 mmol, 2.14 g | C(C1=CC=CC=C1)OC=1C=C(C2=C(NC(CO2)=O)C1)C(C(O)OCC)=O | C19H19NO6
reactant | 2-(4-ethoxyphenyl)-1,1-dimethylethylamine | 5.2 mmol, 1.0 g | C(C)OC1=CC=C(C=C1)CC(C)(C)N | C12H19NO
reactant | sodium borohydride | 6.0 mmol, 0.23 g | [BH4-].[Na+]
reactant | acetone | 5 mL | CC(=O)C | C3H6O
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-benzyloxy-8-{2-[2-(4-ethoxyphenyl)-1,1-dimethylethylamino]-1-hydroxyethyl}4H-benzo[1,4]oxazin-3-one | C(C1=CC=CC=C1)OC=1C=C(C2=C(NC(CO2)=O)C1)C(CNC(CC1=CC=C(C=C1)OCC)(C)C)O | C29H34N2O5
